US06489476B1
A solution of 2-diethylphosphonomethyloxy-5-formylnitrobenzene (1 mmole) in methanol (5 mL) was treated with 10% palladium on carbon (0.05 mmole) under 1 atmosphere of hydrogen at room temperature for 12 h. Filtration followed by evaporation gave 2-diethylphosphonomethyloxy-5-hydroxymethylaniline which was subjected to Step B of Example 36 followed by Step D of Example 34 to give 2-amino-7-hydroxymethyl-6-thiocyanato-4-phosphonomethoxybenzothiazole (39.1). mp 181-184° C. Anal. Calcd. for C10H10N3O5PS2+0.35H2O: C:33.97; H:3.05; N:11.88. Found: C:33.76; H:2.66; N:11.61.

reactant | 2-diethylphosphonomethyloxy-5-formylnitrobenzene | 1 mmole | C(C)OP(=O)(OCC)COC1=C(C=C(C=C1)C=O)[N+](=O)[O-] | C12H16NO7P
reactant | hydrogen | [H][H] | H2
solvent | methanol | 5 mL | CO | CH4O
catalyst | palladium on carbon | 0.05 mmole | [Pd] | Pd
product | 2-diethylphosphonomethyloxy-5-hydroxymethylaniline | C(C)OP(=O)(OCC)COC1=C(N)C=C(C=C1)CO | C12H20NO5P
